US07439393B2
ix) N-(3-{[({3-[(2-{[6-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]-ethyl}amino)hexyl]oxy}ethoxy)methyl]phenyl}amino)carbonyl]amino}phenyl)-pyridine-3-carboxamide
A solution of N-(3-{[({3-[(2-[(6-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy)methyl]phenyl}amino)carbonyl]amino}-phenyl)pyridine-3-carboxamide (0.109 g) in acetic acid (4 ml) and water (2 ml) was heated to 68° for 30 min. The mixture was cooled to room temperature before concentrating in vacuo to leave a residue that was purified by Biotage. Elution with dichloromethane-EtOH-ammonia (25:8:1) followed by solvent evaporation in vacuo gave the title compound (0.089 g). LCMS RT=2.02 min, ES+ve 672 (MH)+.

reactant | N-(3-{[({3-[(2-[(6-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy)methyl]phenyl}amino)carbonyl]amino}-phenyl)pyridine-3-carboxamide | 0.109 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC=2C=C(C=CC2)NC(=O)C=2C=NC=CC2)O)C | C40H49N5O7
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | N-(3-{[({3-[(2-{[6-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]-ethyl}amino)hexyl]oxy}ethoxy)methyl]phenyl}amino)carbonyl]amino}phenyl)-pyridine-3-carboxamide | 0.089 g | O[C@@H](CNCCCCCCOCCOCC=1C=C(C=CC1)NC(=O)NC=1C=C(C=CC1)NC(=O)C=1C=NC=CC1)C1=CC(=C(C=C1)O)CO | C37H45N5O7
